US09169254B2
Iodomethane (0.329 ml, 5.28 mmol) and a 1 N aqueous NaOH solution (3.3 ml, 3.3 mmol) were sequentially added to a solution of 4-oxo-2-thioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester (944 mg, 3.3 mmol) in methanol (33 ml) at room temperature, and the mixture was stirred at the same temperature overnight. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layers were combined and dried over magnesium sulfate, and the solvent was then distilled off. The residue was purified by silica gel column chromatography to give 2-methylsulfanyl-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester (762 mg, 77%).

reactant | Iodomethane | 5.28 mmol, 0.329 ml | IC | CH3I
reactant | NaOH | 3.3 mmol, 1 N, 3.3 ml | [OH-].[Na+]
reactant | 4-oxo-2-thioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 3.3 mmol, 944 mg | C(C)(C)(C)OC(=O)N1CCC2(C(NC(N2)=S)=O)CC1 | C12H19N3O3S
reactant | Water | O | H2O
solvent | methanol | 33 ml | CO | CH4O
product | 2-methylsulfanyl-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester | 762 mg, 77% | C(C)(C)(C)OC(=O)N1CCC2(C(NC(=N2)SC)=O)CC1 | C13H21N3O3S
